US08912180B2
To a 2-methoxyethanamine (1.9 mg) were added a solution of trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexanecarboxylic acid (11.8 mg) and N,N-diisopropylethylamine (10.5 μL) in N,N-dimethylformamide (400 μL), and were added a solution of N-[(dimethylamino)(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methylene]-N-methylMethanaminium hexafluorophosphoric acid (11.4 mg) in N,N-dimethylformamide (100 μL), followed by stirring at room temperature overnight. To the reaction solution were added water and chloroform, followed by liquid separation, and the organic layer was concentrated under reduced pressure. The residue was subjected to preparative purification with HPLC to obtain trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)-N-(2-methoxyethyl)cyclohexanecarboxamide (5.9 mg).

reactant | 2-methoxyethanamine | 1.9 mg | COCCN | C3H9NO
reactant | trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexanecarboxylic acid | 11.8 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@@H]1CC[C@H](CC1)C(=O)O)C=CC=C2)F | C23H25F2N5O4
reactant | N,N-diisopropylethylamine | 10.5 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-[(dimethylamino)(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methylene]-N-methylMethanaminium hexafluorophosphoric acid | 11.4 mg | F[P-](F)(F)(F)(F)F.[H+].CN(C)C(ON1N=NC=2C1=NC=CC2)=[N+](C)C
solvent | N,N-dimethylformamide | 400 μL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 μL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)-N-(2-methoxyethyl)cyclohexanecarboxamide | 5.9 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@@H]1CC[C@H](CC1)C(=O)NCCOC)C=CC=C2)F | C26H32F2N6O4
